US08420816B2
Step B: (R)-3,3-dimethyl-2-(6-methyl-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoic acid
(R)-3,3-Dimethyl-2-(6-methyl-3-oxo-1-tosylpyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoic acid (36 mg, 0.079 mmol)) was dissolved in THF (3 mL), MeOH (3 mL) and aqueous NaOH (1N, 3 mL) in a 50 mL round bottom flask. The reaction mixture was heated at 50° C. for 30 min in an oil bath then cooled to room temperature. The solution was concentrated and purified by preparative HPLC (10-35% AcCN/H2O with 0.035% TFA) to give the title compound (10 mg, 42%). 1H NMR (500 MHz, CD3OD) δ 1.25 (s, 9H), 2.29 (s, 3H), 4.87 (s, 1H), 5.21 (d, J=19.5 Hz, 1H), 5.37 (d, J=19.5 Hz, 1H), 7.87 (s, 1H), 8.23 (s, 1H). [M+H] calc'd for C16H19N3O3, 302; found, 302.

reactant | (R)-3,3-Dimethyl-2-(6-methyl-3-oxo-1-tosylpyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoic acid | 0.079 mmol, 36 mg | CC([C@H](C(=O)O)N1CC=2C(=CN=C3C2C(C1=O)=CN3S(=O)(=O)C3=CC=C(C)C=C3)C)(C)C | C23H25N3O5S
reactant | MeOH | 3 mL | CO | CH4O
reactant | NaOH | 1N, 3 mL | [OH-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (R)-3,3-dimethyl-2-(6-methyl-3-oxopyrrolo[4,3,2-de][2,6]naphthyridin-4(1H,3H,5H)-yl)butanoic acid | 10 mg, 42% | CC([C@H](C(=O)O)N1CC=2C(=CN=C3C2C(C1=O)=CN3)C)(C)C | C16H19N3O3
